US08168631B2
To stirred and cooled (0° C.) methyl 2-isocyanoacetate (96% technical grade, 1.0 g, 10.09 mmol) was slowly added morpholine (1.05 g, 12.11 mmol). The mixture was stirred for 1 h with continuous stirring at room temperature and then concentrated. The resulting oil was co-evaporated twice from a mixture CH2Cl2:hexane to obtain crude 2-isocyano-1-morpholinoethanone, SLA 19178, as a yellow oil (1.65 g, 99% yield) and used in the next step without further purification.

reactant | methyl 2-isocyanoacetate | 10.09 mmol, 1.0 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | morpholine | 12.11 mmol, 1.05 g | N1CCOCC1 | C4H9NO
product | 2-isocyano-1-morpholinoethanone | [N+](#[C-])CC(=O)N1CCOCC1 | C7H10N2O2
